* Z:\mnt\design.r\spice\examples\3458.asc
L1 IN N001 10µ
R1 OUT N003 1.5Meg
R2 N003 0 316K
V1 IN 0 4.8
C1 OUT 0 22µ
C2 OUT N003 10p
XU1 N001 IN MP_01 IN N004 N002 N003 N005 0 N008 N007 OUT 0 LTC3458
R3 N006 N005 33K
C3 N006 0 560p
C4 N008 0 .001µ
C5 N007 0 .01µ
R4 N007 0 133K
R5 N004 0 124K
R6 N002 0 200K
Rload OUT 0 20
.tran 750u startup
.lib LTC3458.sub
.backanno
.end
